US07618978B2
(1R,2S)-1-Homopiperidin-2-yl-2-dibenzylamino-3-phenylpropan-1-ol (Isomer 1)
Dissolve 7-((1R,2S)-2-dibenzylamino-1-hydroxy-3-phenylpropyl)-1,5,6,7-tetrahydroazepin-2-one (Isomer 1) (40 mg, 0.09 mmol) in THF (5 mL) and add BH3SMe2 (2 M in diethyl ether, 0.14 mL, 0.27 mmol). Stir the reaction at 50° C. for 3 hour. Add saturated aqueous citric acid (10 mL). Extract aqueous twice with ethyl acetate, combine organics and wash with saturated sodium chloride, dry (magnesium sulfate) and concentrate under reduced pressure. Add 20% palladium hydroxide on carbon (90 mg) and methanol (10 mL) and stir under 1 atmosphere of hydrogen overnight. Filter and evaporate to give a foam. Purify the product using a SCX column to give a thick residue (0.007 g, 40%).

reactant | 7-((1R,2S)-2-dibenzylamino-1-hydroxy-3-phenylpropyl)-1,5,6,7-tetrahydroazepin-2-one | 0.09 mmol, 40 mg | C(C1=CC=CC=C1)N([C@H]([C@H](O)C1CCC=CC(N1)=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C29H32N2O2
reactant | citric acid | 10 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1R,2S)-1-Homopiperidin-2-yl-2-dibenzylamino-3-phenylpropan-1-ol | 0.007 g, 40% | N1C(CCCCC1)[C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C29H36N2O
